US04500711
The reaction of this invention comprises mixing 5,10-methenyl-5,6,7,8-tetrahydrofolic acid (anhydroleucovorin), an amine base, and water and heating the mixture at a temperature of from about 50° C. to reflux for a period of time of from about 30 min to about 10 hours, perferably about 4-6 hours, at a pH of from about 5-7 to give leucovorin. The pH of the mixture is adjusted to and maintained at 5 to 7 by the addition or removal, as appropriate, of suitable amounts of the amine bases useful in this invention. The anhydroleucovorin may be used in the form of its internal salt (i.e. zwitterion) or as a salt with a suitable anion, preferably chloride, normally as a hydrate. After the ring opening reaction is complete, the reaction mixture is generally cooled and filtered. Slightly more than an equimolar (to anhydroleucovorin) amount of a water soluble calcium salt, e.g. chloride, bromide, iodide, nitrate, acetate, is then added either as an aqueous solution or as a solid to the filtrate and calcium leucovorin is precipitated by adding a water soluble organic solvent, e.g. a lower alkanol such as methanol, ethanol, isopropanol, or acetone. The calcium leucovorin is than removed by filtration, washed with a suitable solvent such as aqueous ethanol, ethanol, acetone, ether, ethyl acetate or the like and dried. Column chromatography is generally not required since the product so obtained meets or exceeds USP specifications.

reactant | 5,10-methenyl-5,6,7,8-tetrahydrofolic acid | C(CC[C@@H](C(=O)O)NC(=O)C1=CC=C(N2C=[N+]3C=4C(NC(=NC4NCC3C2)N)=O)C=C1)(=O)O
reactant | water | O | H2O
product | leucovorin | C1=CC(=CC=C1C(=O)N[C@@H](CCC(=O)O)C(=O)O)NCC2CNC3=C(N2C=O)C(=O)N=C(N3)N | C20H23N7O7
